US06809094B2
4-(5-PHENYL-BENZOOXAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE
1,4-Diazabicyclo[3.2.2]nonane (504 mg, 4.0 mmol) was added to a mixture of 2-chloro-5-phenylbenzoxazole (919 mg, 4.0 mmol), sodium tert-butoxide (423 mg, 4.4 mmol) and toluene (4 mL) at RT. The mixture was stirred at RT for 16 h and water (10 mL) and ethyl acetate (10 mL) were added. The layers were partitioned and the aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated and the residue was purified by chromatography (Biotage, 40S) eluting with 4% MeOH in CHCl3 with 20 drops of NH4OH per liter of eluent to afford 540 mg (42%) of the title compound as an oil: 1H NMR (CDCl3, 400 MHz) δ 7.60-7.56 (m, 3H), 7.42 (t, 2H, J=7.7 Hz), 7.33-7.20 (m, 3H), 4.51 (s, 1H), 3.92 (t, 2H, J=5.8 Hz), 3.17-2.97 (m, 6H), 2.20-2.07 (m, 2H), 1.84-1.75 (m, 2H); 13C NMR (CDCl3, 100 MHz) δ 162.2, 148.6, 144.3, 141.9, 137.9, 129.0, 127.5, 127.1, 119.8, 114.8, 108.8, 57.3, 50.4, 46.5, 44.4, 27.0; MS (Cl) m/z 320.1 (M+1). The hydrochloride salt was prepared by diluting the title compound in ethyl acetate and adding a 2.5 N HCl in ethyl acetate solution: mp>300° C.

reactant | 1,4-Diazabicyclo[3.2.2]nonane | 4.0 mmol, 504 mg | N12CCNC(CC1)CC2 | C7H14N2
reactant | 2-chloro-5-phenylbenzoxazole | 4.0 mmol, 919 mg | ClC=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C13H8ClNO
reactant | sodium tert-butoxide | 4.4 mmol, 423 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 4-(5-PHENYL-BENZOOXAZOL-2-YL)-1,4-DIAZA-BICYCLO[3.2.2]NONANE | 540 mg, 42% | C1(=CC=CC=C1)C=1C=CC2=C(N=C(O2)N2CCN3CCC2CC3)C1 | C20H21N3O
